US08455646B2
Preparation of (4-chloro-phenyl)-phenylamino-acetic acid (I256)
2-Bromo-2-(4-chlorophenyl)acetic acid (1.2 g, 4.67 mmol) and aniline (0.85 mL, 9.33 mmol) are dissolved in acetonitrile (29 mL). The reaction is heated under microwave irradiation at 100° C. for 5 minutes. The solvent is evaporated and the residue is dissolved in EtOAc and washed with 3M HCl and then brine. The organic layer is dried over Na2SO4, filtered and evaporated to dryness to give intermediate I258 as a white solid (1.22 g, quantitative yield).

reactant | 2-Bromo-2-(4-chlorophenyl)acetic acid | 4.67 mmol, 1.2 g | BrC(C(=O)O)C1=CC=C(C=C1)Cl | C8H6BrClO2
reactant | aniline | 9.33 mmol, 0.85 mL | NC1=CC=CC=C1 | C6H7N
solvent | acetonitrile | 29 mL | C(C)#N | C2H3N
product | (4-chloro-phenyl)-phenylamino-acetic acid | 1.22 g, quantitative yield | ClC1=CC=C(C=C1)C(C(=O)O)NC1=CC=CC=C1 | C14H12ClNO2
